US08080552B2
ii) 1-(3,3-Dimethyl-2,3-dihydro-1H-indol-6-yl)-3-{4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea
A mixture of 540 mg (927 mmol) 6-(3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-ureido)-3,3-dimethyl-2,3-dihydro-indole-1-carboxylic acid phenyl ester, 20 ml THF and 150 mg 10% Pd/C is hydrogenated at atmospheric pressure for 10 h. The catalyst is removed by filtration and the filtrate evaporated. The residue is purified by chromatography on silica (dichloromethane/methanol 95:5) and the obtained material (400 mg) stirred with dichloromethane for 1 h. the precipitate is isolated by filtration and washed with dichloromethane to give 150 mg (36%) of the title compound.

reactant | 6-(3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-ureido)-3,3-dimethyl-2,3-dihydro-indole-1-carboxylic acid phenyl ester | 927 mmol, 540 mg | C1(=CC=CC=C1)OC(=O)N1CC(C2=CC=C(C=C12)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCCO)(C)C | C31H32N6O5
catalyst | Pd/C | 150 mg | [Pd] | Pd
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(3,3-Dimethyl-2,3-dihydro-1H-indol-6-yl)-3-{4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea | 150 mg, 36% | CC1(CNC2=CC(=CC=C12)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCCO)C | C24H28N6O3
